US06451821B1
The process is performed as in Example 2, starting with N-(tert-butyl)-N′-[(1S)-2-hydroxy-1-(3-nitrobenzyl)ethyl]thiourea in 80 cm3 of aqueous 6N hydrochloric acid. The heating time is 7 hours. The product is isolated in an identical manner and then purified by chromatography under an argon pressure of 80 kPa, on a column of silica gel (particle size 40-63μ; diameter 3.5 cm; height 30 cm), eluting with a dichloromethane/methanol mixture (95/5 by volume). The fractions corresponding to the expected product are collected. These fractions are combined and then concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 3.90 g of (−)-(4S)-4-(3-nitrobenzyl)-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride are obtained in the form of a white solid melting at 220° C. (αD20=−18.4±0.05 at a concentration of 0.5% in methanol).

reactant | N-(tert-butyl)-N′-[(1S)-2-hydroxy-1-(3-nitrobenzyl)ethyl]thiourea | C(C)(C)(C)NC(=S)N[C@H](CO)CC1=CC(=CC=C1)[N+](=O)[O-] | C14H21N3O3S
reactant | hydrochloric acid | 6N | Cl | ClH
product | (−)-(4S)-4-(3-nitrobenzyl)-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride | 3.90 g | Cl.[N+](=O)([O-])C=1C=C(C[C@@H]2N=C(SC2)N)C=CC1 | InChI=1S/C10H11N3O2S.ClH/c11-10-12-8(6-16-10)4-7-2-1-3-9(5-7)13(14)15;/h1-3,5,8H,4,6H2,(H2,11,12);1H/t8-;/m0./s1
